US04968721
A chilled solution (-4° C.) of 126 g of 2,2-dimethyl-N-[(2-methyl)phenyl]propanamide in 900 ml of tetrahydrofuran was treated dropwise over 1.5 hr with n-butyl lithium (500 ml of a 2.5M solution in hexanes). After the addition was complete, the resulting solution was stirred for 1 hr, with cooling, and was then treated over 0.5 hr with a solution of 91.77 g of 2-methylbenzaldehyde methyl imine. The reaction mixture was quenched by rapid addition of water. After concentration the residue was extracted with dichloromethane. The combined organic extract was dried over anhydrous sodium sulfate, filtered and concentrated. A 50 g portion of the residue (213 g) was acidified with 10% hydrochloric acid and partitioned with toluene. The aqueous layer was basified with a 50% sodium hydroxide solution and extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate and concentrated. Upon standing under nitrogen overnight in a refrigerator a solid formed, which was triturated with hexane to give 2,2-dimethyl-N-[2 -[2-methylamino-2-(2-methylphenyl)ethyl]phenyl]propanamide, mp 77°-79° C.

reactant | 2,2-dimethyl-N-[(2-methyl)phenyl]propanamide | 126 g | CC(C(=O)NC1=C(C=CC=C1)C)(C)C | C12H17NO
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-methylbenzaldehyde methyl imine | 91.77 g | CN=CC1=C(C=CC=C1)C | C9H11N
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
product | 2,2-dimethyl-N-[2 -[2-methylamino-2-(2-methylphenyl)ethyl]phenyl]propanamide | CC(C(=O)NC1=C(C=CC=C1)CC(C1=C(C=CC=C1)C)NC)(C)C | C21H28N2O
